US03974280
26.5 ml of a 2N solution of n-butyllithium in hexane is added dropwise within 30 minutes to a solution of 7.0 g of benzo[b]thiophene in 50 ml of abs. diethyl ether at a reaction temperature of 5° to 10°. The solution is then stirred for a further 1 hour at 0°. There is then added dropwise, in the course of 30 minutes, a solution of 5.9 g of 1-methyl-3-piperidone in 50 ml of abs. diethyl ether, with the reaction temperature being maintained at 0° by external cooling. The reaction solution is stirred for a further 15 hours at room temperature, and is then poured, with stirring, onto 100 g of ice; the aqueous phase is separated, and extracted 3 times with 100 ml of ethyl acetate each time. The combined organic extracts are dried with sodium sulphate, filtered under suction and concentrated by evaporation. The residue is dissolved in 250 ml of 2N hydrochloric acid, and the acid solution is washed with diethyl ether. The aqueous solution is subsequently brought to a pH-value of 12 by the addition of 10 sodium hydroxide solution, and extracted with 500 ml of chloroform. The chloroform solution is dried with sodium sulphate, filtered with suction and concentrated by evaporation to obtain crude 1-methyl-3-(benzo[b]thien-2-yl)-3-piperidinol; the oxalate thereof is prepared, for example, from 1.8 g of free base in ethyl actate and 0.7 g of oxalic acid in 10 ml of ethyl acetate, and it melts at 165°-168° after recrystallisation from ethyl acetate.

reactant | n-butyllithium | C(CCC)[Li]
reactant | benzo[b]thiophene | 7.0 g | S1C2=C(C=C1)C=CC=C2 | C8H6S
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | 1-methyl-3-piperidone | 5.9 g | CN1CC(CCC1)=O | C6H11NO
solvent | hexane | CCCCCC | C6H14
product | 1-methyl-3-(benzo[b]thien-2-yl)-3-piperidinol | CN1CC(CCC1)(O)C1=CC2=C(S1)C=CC=C2 | C14H17NOS
